US06025370
In 10 ml of xylene was suspended 1.00 g of 5-bromo-7-fluoro-2-(p-toluenesulfonyl)isoindoline, followed by adding thereto 2.70 g of hexabutyldistannane and 19 mg of bis(triphenylphosphine)palladium(II) chloride, and the resulting mixture was heated under reflux for 1 hour under an argon atmosphere. The reaction mixture was concentrated under reduced pressure and the resulting residue was purified by a column chromatography (eluent; n-hexane:ethyl acetate=10:1) to obtain 1.10 g of 7-fluoro-2-(p-toluenesulfonyl)-5-tributylstannylisoindoline as an oil.

reactant | 5-bromo-7-fluoro-2-(p-toluenesulfonyl)isoindoline | 1.00 g | BrC=1C=C2CN(CC2=C(C1)F)S(=O)(=O)C1=CC=C(C=C1)C | C15H13BrFNO2S
reactant | hexabutyldistannane | 2.70 g | C(CCC)[Sn]([Sn](CCCC)(CCCC)CCCC)(CCCC)CCCC
solvent | xylene | 10 ml | C=1(C(=CC=CC1)C)C | C8H10
catalyst | bis(triphenylphosphine)palladium(II) chloride | 19 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 7-fluoro-2-(p-toluenesulfonyl)-5-tributylstannylisoindoline | 1.10 g | FC=1C=C(C=C2CN(CC12)S(=O)(=O)C1=CC=C(C=C1)C)[Sn](CCCC)(CCCC)CCCC | InChI=1S/C15H13FNO2S.3C4H9.Sn/c1-11-5-7-13(8-6-11)20(18,19)17-9-12-3-2-4-15(16)14(12)10-17;3*1-3-4-2;/h3-8H,9-10H2,1H3;3*1,3-4H2,2H3;
